US09126969B2
6-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-5-(4-piperidin-1-ylbutoxy)-1H-benzimidazol
A solution of 74 mg of 4-fluoro-5-(4-piperidin-1-ylbutoxy)benzene-1,2-diamine and 50.7 mg of 4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazole-3-carbaldehyde in 4 mL of methanol is stirred at ambient temperature for 18 hours. After evaporation of the solvent under reduced pressure in a rotary evaporator, the reaction crude is purified by flash chromatography on an Intelliflash apparatus on an Analogix RS-4 cartridge with a dichloromethane/methanol eluent of 100% to 82/18. 77 mg of 6-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-5-(4-piperidin-1-ylbutoxy)-1H-benzimidazoleare isolated in the form of a yellow foam. 1H NMR (300 MHz, DMSO-d6, δ in ppm) for this batch, we observe a 60%-40% resolution of tautomers with: from 1.29 to 2.44 (m, 22H); 3.70 (m, 1H); 4.00 (m, 1H) 4.10 (t, J=6.0 Hz, 2H); 5.60 (dd, J=3.0 and 10.0 Hz, 1H); 7.21 (d, J=8.5 Hz, 0.6H); from 7.36 to 7.46 (m, 0.8H); 7.53 (d, J=11.0 Hz, 0.6H); 9.17 (s, 1H); 12.8 (broad s, 0.6H); 12.9 (broad s, 0.4H).

reactant | 4-fluoro-5-(4-piperidin-1-ylbutoxy)benzene-1,2-diamine | 74 mg | FC=1C=C(C(=CC1OCCCCN1CCCCC1)N)N | C15H24FN3O
reactant | 4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazole-3-carbaldehyde | 50.7 mg | [N+](=O)([O-])C=1C(=NN(C1)C1OCCCC1)C=O | C9H11N3O4
solvent | methanol | 4 mL | CO | CH4O
product | 6-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-5-(4-piperidin-1-ylbutoxy)-1H-benzimidazol | FC=1C(=CC2=C(NC(=N2)C2=NN(C=C2[N+](=O)[O-])C2OCCCC2)C1)OCCCCN1CCCCC1 | C24H31FN6O4
